US07985755B2
5-[4-(Naphthalene-1-sulfonyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 1-Naphthalene-sulfonyl chloride (92.9 mg; 0.41 mmol) to obtain 33.7 mg. (39% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.69 (d, J=8.4 Hz, 1H), 8.38 (br s, 1H), 8.32 (d, J=8.4 Hz, 1H), 8.21 (d, J=7.2 Hz, 1H), 8.14 (d, J=7.6 Hz, 1H), 7.73 (m, 3H), 7.36 (t, J=7.6 Hz, 1H), 6.95 (d, J=8.0 Hz, 1H), 6.91 (br s, 1H), 6.77 (d, J=7.2 Hz, 1H), 5.91 (br s, 2H), 3.83 (d, J=12 Hz, 2H), 3.10 (d, J=12.0 Hz, 2H), 2.90 (t, J=11.5 Hz, 1H), 2.75 (t, J=11.5 Hz, 2H). ESIMS+436.0 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 1-Naphthalene-sulfonyl chloride | 0.41 mmol, 92.9 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | 5-[4-(Naphthalene-1-sulfonyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 39% yield | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1CCN(CC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C22H22N6O2S
